*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :1005M(0402)/X5R(-55to85[deg])/1.00e+00[uF]/50[V]
* Murata P/N :GRM155R61H105KE05
* Property : C = 1.00e+00[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 100[Hz]-6[GHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GRM155R61H105KE05 Port1 Port2
C01 Port1 N01 7.34e-07
R01 Port1 N01 5.00e+07
L02 N01 N02 1.30e-10
R03 N02 N03 9.64e-03
C04 N03 N04 4.23e-05
R04 N03 N04 5.76e+01
C05 N04 N05 3.64e-05
R05 N04 N05 9.58e+00
C06 N05 N06 2.81e-05
R06 N05 N06 1.44e+00
C07 N06 N07 2.41e-05
R07 N06 N07 1.66e-01
C08 N07 N08 1.87e-05
R08 N07 N08 2.37e-02
C09 N08 N09 7.06e-05
R09 N08 N09 1.14e-03
L10 N09 N10 2.78e-11
R10 N09 N10 3.26e-01
L11 N10 N11 3.27e-11
R11 N10 N11 8.92e-02
L12 N11 N12 1.22e-10
R12 N11 N12 3.28e-02
C13 N12 N13 2.95e-06
L13 N12 N13 2.81e-11
R13 N12 N13 3.92e-03
C14 N13 N14 1.57e-06
L14 N13 N14 2.74e-11
R14 N13 N14 4.26e-03
C15 N14 Port2 4.56e-12
L15 N14 Port2 4.73e-11
R15 N14 Port2 9.97e+00
.ENDS GRM155R61H105KE05
